US05686480
A solution of sodium 1,1,1,3,3,3-hexamethyldisilylazide (1.0 mol dm-3 ; 35 cm3) in THF was added at -78° C. under nitrogen to a stirred solution of 4-chromanone (5.0 g) in dry THF (100 cm3). The bright orange solution was stirred at -78° C. for 20 minutes, followed by addition of diethyl oxalate (4.75 cm3). The mixture was warmed to room temperature, becoming a thick, red gel. The gel was diluted with hydrochloric acid (1.0 mol dm-3 ; 200 cm3) and extracted with ethyl acetate (200 cm3). The extracts were dried (MgSO4), filtered and concentrated to give hydroxy-(4-oxo-chroman-3-ylidene)-acetic acid ethyl ester (8.3 g; 97%) as a bright yellow, waxy solid; δH (250 MHz; d6 -DMSO) 1.30 (3H, t, J 7.5, CO2 CH2CH3), 4.30 (2H, q, J 7.5, CO2CH2CH3), 5.18 (2H, s, OCH2C), 7.04 (1H, d, J 8.5, 1 of ArH), 7.12 (1H, dd, J 8.5 and 8.5, 1 of ArH), 7.58 (1H, dd, J 8.5 and 8.5, 1 of ArH) and 7.79 (1H, d, J8.5, 1 of ArH); m/z (CI+ ; NH3) 249 (MH+ ; 28%) and 205 (100).

reactant | 4-chromanone | 5.0 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | diethyl oxalate | 4.75 cm3 | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 cm3 | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1.0 mol dm-3, 200 cm3 | Cl | ClH
product | hydroxy-(4-oxo-chroman-3-ylidene)-acetic acid ethyl ester | 8.3 g, 97% | C(C)OC(C(=C1COC2=CC=CC=C2C1=O)O)=O | C13H12O5
